US06514964B1
Step B: (Tert-butoxy)-N-((2-bromophenyl)methyl)-N-(3-hydroxypropyl)carboxamide
To a stirring solution of 3-(((2-bromophenyl)methyl) amino)propan-1-ol in methylene chloride (0.1 M) was added di-tert-butyl dicarbonate (1.1 eq). After 1 hr. the solvent was removed by rotary evaporation, and the residue partitioned between ether and 1N HCl. The ethereal portion was dried over sodium sulfate filtered and concentrated in vacuo to afford the product. EI-MS m/z 344 (M+H)+

reactant | 3-(((2-bromophenyl)methyl) amino)propan-1-ol | BrC1=C(C=CC=C1)CNCCCO | C10H14BrNO
reactant | di-tert-butyl dicarbonate | 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 0.1 M | C(Cl)Cl | CH2Cl2
product | (Tert-butoxy)-N-((2-bromophenyl)methyl)-N-(3-hydroxypropyl)carboxamide | C(C)(C)(C)OC(=O)N(CCCO)CC1=C(C=CC=C1)Br | C15H22BrNO3
